US08754226B2
A flask was charged with 2,3-dichloro-5-(trifluoromethyl)pyridine (0.2919 mL, 2.093 mmol), (S)-tert-butyl 3-amino-2-oxo-1,4′-bipiperidine-1′-carboxylate (0.415 g, 1.395 mmol), Na2CO3 (0.2958 g, 2.791 mmol), and DMSO (5 mL). The reaction mixture was stirred at 130° C. overnight. Water was added and the reaction mixture was extracted with ethyl acetate. The organic layers were combined, dried, filtered, concentrated. The residue was purified using silica gel column chromatography with 30% ethyl acetate in hexanes to provide (S)-tert-butyl 3-(3-chloro-5-(trifluoromethyl)pyridin-2-ylamino)-2-oxo-1,4′-bipiperidine-1′-carboxylate (0.51 g, 76.63% yield). Mass spectrum (apci) m/z=377.2 (M+H-Boc).

reactant | 2,3-dichloro-5-(trifluoromethyl)pyridine | 2.093 mmol, 0.2919 mL | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | (S)-tert-butyl 3-amino-2-oxo-1,4′-bipiperidine-1′-carboxylate | 1.395 mmol, 0.415 g | N[C@@H]1C(N(CCC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H27N3O3
reactant | Na2CO3 | 2.791 mmol, 0.2958 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | Water | O | H2O
product | (S)-tert-butyl 3-(3-chloro-5-(trifluoromethyl)pyridin-2-ylamino)-2-oxo-1,4′-bipiperidine-1′-carboxylate | 0.51 g, 76.63% yield | ClC=1C(=NC=C(C1)C(F)(F)F)N[C@@H]1C(N(CCC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C21H28ClF3N4O3
